US04345936
To a stirred solution of 89 g. of sarcosine in 300 ml. of water containing 60 g. of sodium hydroxide were added portion-wise over thirty minutes 188 g. of 3,4-dichlorophenyl isocyanate. The reaction mixture was stirred for thirty minutes following the addition, and then was filtered. The filtrate was acidified with concentrated hydrochloric acid, whereupon a white solid precipitated. The solid was collected by filtration and air dried to give 1-methyl-1-(hydroxycarbonylmethyl)-3-(3,4-dichlorophenyl) urea. M.P. 103°-105° C.

reactant | sarcosine | N(C)CC(=O)O | C3H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3,4-dichlorophenyl isocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | water | 60 g | O | H2O
product | 1-methyl-1-(hydroxycarbonylmethyl)-3-(3,4-dichlorophenyl) urea | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)CC(=O)O | C10H10Cl2N2O3
